US09238639B2
(6-((2,6-Dimethylpyridin-3-yl)methoxy)-1-benzofuran-3-yl)acetic acid
A mixture of methyl(6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzofuran-3-yl)acetate (430 mg), 1N NaOH (5 mL), THF (5 mL) and MeOH (5 mL) was stirred at room temperature for 1 h. The mixture was washed with Et2O. Water and 1N HCl (5 mL) were added to the water layer to be pH=4. The precipitate was collected by filtration and washed with water and Et2O respectively to give crystals. The crystals were recrystallized from acetone-hexane to give the title compound.

reactant | methyl(6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzofuran-3-yl)acetate | 430 mg | COC(CC1=COC2=C1C=CC(=C2)OCC=2C(=NC(=CC2)C)C)=O | C19H19NO4
reactant | NaOH | 1N, 5 mL | [OH-].[Na+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 5 mL | CO | CH4O
product | (6-((2,6-Dimethylpyridin-3-yl)methoxy)-1-benzofuran-3-yl)acetic acid | CC1=NC(=CC=C1COC1=CC2=C(C(=CO2)CC(=O)O)C=C1)C | C18H17NO4
